US05817882
[4R-[2(S*,S*,S*),4α,5β]]-4,5-Dicyclohexyl-2-(2,6-diethyl-3,5-dimethyl-hexen-6-yl)-1,3,2-dioxaborolane (14a)
Ethylmagnesium bromide (3.0 M in diethyl ether, 35.6 mmol) was added dropwise in 20 minutes to a stirred solution of [4R- [2(S*,S*,S*),4α,5β]]-4,5-dicyclohexyl-2-(6-chloro-2-ethyl-3,5-dimethylhexen-6-yl) -1,3,2-dioxaborolane (14.5 g, 35.6 mmol) in THF (200 mL) cooled with a -78° C. bath. The bath was allowed to warm to 20°-25° C. and the mixture was stirred for 24 h. The solution was concentrated under vacuum and ether (200 mL) was added to the residue. The ethereal solution was washed with saturated aqueous ammonium chloride (2∞200 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum to liquid [4R-[2(S*,S*,S*),4α,5β]]-4,5-dicyclohexyl -2-(2,6-diethyl-3,5-dimethylhexen-6-yl)-1,3,2-dioxaborolane (14a) as a liquid (12.9 g, 90%); 300 MHz 1H-NMR (CDCl3) δ0.87-2.27 (m, 43), 3.81 (m, 2), 4.66 and 4.71 (AB, 2); 75 MHz 13C-NMR (CDCl3): 12.3, 14.1, 17.6, 19.5, 22.0, 25.8, 25.9, 26.1, 27.1, 27.6, 28.2, 28.5, 31.6, 37.4, 43.1, 83.1, 105.8, 156.8. HRMS: calcd for C26H48BO2 [(M+1)+] 403.3747; found, 403.3732.

reactant | Ethylmagnesium bromide | 35.6 mmol, 3.0 M | C(C)[Mg]Br
reactant | 4,5-dicyclohexyl-2-(6-chloro-2-ethyl-3,5-dimethylhexen-6-yl) -1,3,2-dioxaborolane | 35.6 mmol, 14.5 g | C1(CCCCC1)C1OB(OC1C1CCCCC1)C(C(CC(C(=C)CC)C)C)Cl | C24H42BClO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4,5-Dicyclohexyl-2-(2,6-diethyl-3,5-dimethyl-hexen-6-yl)-1,3,2-dioxaborolane | C1(CCCCC1)C1OB(OC1C1CCCCC1)C(C(CC(C(=C)CC)C)C)CC | C26H47BO2
